US09085555B2
(1R,3S,5R)-2-{2-[3-Acetyl-5-(2-methoxy-ethoxy)-indazol-1-yl]-acetyl}-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid (2-fluoro-3-trifluoromethoxy-phenyl)-amide
To a suspension of sodium hydride (60% in Mineral oil, 4.8 mg, 0.121 mmol) in DMF (5 mL) at 0° C. was added 1R,3S,5R)-2-[2-(3-acetyl-5-hydroxy-indazol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid (2-fluoro-3-trifluoromethoxy-phenyl)-amide (60 mg, 0.115 mmol). After stirring for 5 min, 1-bromo-2-methoxyethane (0.016 mL, 0.173 mmol) was added and the reaction mixture was stirred at RT for 16 h. The reaction mixture was quenched with water and extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated. The crude residue was purified by preparative HPLC (Waters Sunfire C18-ODB, 5 um, 30×100 mm, flow: 40 mL/min, gradient: 0-18.5 min 5% to 100% CH3CN, 18.5-20 min 100% CH3CN, H2O and CH3CN containing 0.1% TFA). Further purification by flash chromatography on silica gel (c-hexane/EtOAc 1:0 to 0:1) afforded the title compound. MS (UPLC-MS): 579.3. tR (HPLC conditions f): 2.07 min.

reactant | sodium hydride | 0.121 mmol, 4.8 mg | [H-].[Na+]
reactant | 2-[2-(3-acetyl-5-hydroxy-indazol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid (2-fluoro-3-trifluoromethoxy-phenyl)-amide | 0.115 mmol, 60 mg | FC1=C(C=CC=C1OC(F)(F)F)NC(=O)C1N(C2CC2C1)C(CN1N=C(C2=CC(=CC=C12)O)C(C)=O)=O | C24H20F4N4O5
reactant | 1-bromo-2-methoxyethane | 0.173 mmol, 0.016 mL | BrCCOC | C3H7BrO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (1R,3S,5R)-2-{2-[3-Acetyl-5-(2-methoxy-ethoxy)-indazol-1-yl]-acetyl}-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid (2-fluoro-3-trifluoromethoxy-phenyl)-amide | FC1=C(C=CC=C1OC(F)(F)F)NC(=O)[C@H]1N([C@@H]2C[C@@H]2C1)C(CN1N=C(C2=CC(=CC=C12)OCCOC)C(C)=O)=O | C27H26F4N4O6
